US05266570
a. (9S, 10S)-2-Chloro-9,10-dihydro-9,10-methano-9-anthracenecarbonyl chloride
To a stirred suspension of (9S, 10S)-2-chloro-9,10-dihydro-9,10-methano-9-anthracenecarboxylic acid (1.0 g, 3.62 mmol), prepared as described in Example 109a, in toluene (10 mL) was added thionyl chloride (0.29 mL, 3.98 mmol). After refluxing for 1.5 h, the mixture was concentrated to give the title compound as a light yellow solid (1.05 g, quant.); MS(CI): 289 (M+H).

reactant | (9S, 10S)-2-chloro-9,10-dihydro-9,10-methano-9-anthracenecarboxylic acid | 3.62 mmol, 1.0 g | ClC1=CC=2[C@]3(C4=CC=CC=C4[C@@H](C2C=C1)C3)C(=O)O | C16H11ClO2
reactant | thionyl chloride | 3.98 mmol, 0.29 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (9S, 10S)-2-Chloro-9,10-dihydro-9,10-methano-9-anthracenecarbonyl chloride | 1.05 g | ClC1=CC=2[C@]3(C4=CC=CC=C4[C@@H](C2C=C1)C3)C(=O)Cl | C16H10Cl2O
